US04740228
8.7 g (0.1 mole) of morpholine are dissolved in 20 ml of dry diethyl ether, and a solution of 10.5 g (0.05 mole) of 2-ethyl-2-phenyl-cyanoacetyl chloride in 20 ml of dry diethyl ether are added dropwise under cooling with ice (at a temperature below 10° C.). The reaction mixture is refluxed for 30 minutes, then cooled and washed with water. The organic phase is separated, washed in succession with 5% aqueous sodium carbonate solution, 2n aqueous hydrochloric acid and water, dried over magnesium sulfate, and evaporated. 11.4 g (89%) of 2-cyano-2-ethyl-2-phenylacetic acid morpholide are obtained; m.p.: 88°-90° C.

reactant | morpholine | 0.1 mole, 8.7 g | N1CCOCC1 | C4H9NO
reactant | 2-ethyl-2-phenyl-cyanoacetyl chloride | 0.05 mole, 10.5 g | C(C)C(C(=O)Cl)(C1=CC=CC=C1)C#N | C11H10ClNO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-cyano-2-ethyl-2-phenylacetic acid morpholide | 11.4 g, 89% | C(#N)C(C(=O)N1CCOCC1)(C1=CC=CC=C1)CC | C15H18N2O2
